US09290511B2
Tert-butyl 4-(2-pyrrolidin-1-ylethoxymethyl)piperidine-1-carboxylate (5.28 g, 0.017 moles) was stirred at room temperature in TFA/DCM (1:1, 40 mL) for 1 hour. The solvent was removed at reduced pressure. The resulting residue was purified using an SCX column to afford 4-(2-pyrrolidin-1-ylethoxymethyl)piperidine (2.63 g). LCMS [M+H]+=213.2

reactant | Tert-butyl 4-(2-pyrrolidin-1-ylethoxymethyl)piperidine-1-carboxylate | 0.017 moles, 5.28 g | N1(CCCC1)CCOCC1CCN(CC1)C(=O)OC(C)(C)C | C17H32N2O3
solvent | TFA DCM | 40 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 4-(2-pyrrolidin-1-ylethoxymethyl)piperidine | 2.63 g | N1(CCCC1)CCOCC1CCNCC1 | C12H24N2O
